US07465731B2
To a solution of ethyl (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate (2.16 g) in MeOH (30 mL) and dioxane (30 mL) was added 1N NaOH aq solution (27.1 mL). The mixture was heated at 70° C. for 1.5 hour and diluted with water (120 mL) and washed with ether. The pH value of aqueous phase was adjusted to 5.5, and the precipitate was collected by filtration and dried in vacuo to give (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylic acid (1.58 g) as pale yellow powder.

reactant | ethyl (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylate | 2.16 g | ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)OCC)C=C1 | C21H22ClN3O3
reactant | NaOH | 1N, 27.1 mL | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 120 mL | O | H2O
product | (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-3-pyridyl)acrylic acid | 1.58 g | ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC2=CC=C(C=N2)/C=C/C(=O)O)C=C1 | C19H18ClN3O3
